US06203785B1
47 g pyrrolidine, 149.5 g 1-bromododecane and 83 g potassium carbonate were added to 560 mL acetone. The reaction mixture was heated at 55° C. for 24 hr, then filtered. Solvent was removed from the filtrate, yielding 92 g N-dodecylpyrrolidine. 80 g N-dodecylpyrrolidine and 52.6 g 1-bromo-3-chloropropane were dissolved in 133 mL methanol and the reaction mixture was heated at 65° C. for 18 hr. After cooling to room temperature, methanol was removed under reduced pressure. The residue was poured into 2 L diethylether with stirring and the mixture was allowed to stand for another 6 hr. The white precipitate thus formed was filtered and was dried at 40° C. under a vacuum for 24 hr yielding 85 g (3-chloropropyl)dodecylpyrrolidinium bromide as a white solid, Alkylation of crosslinked poly(diallylmethylamine) with (3-chloropropyl)dodecylpyrrolidinium bromide

reactant | N-dodecylpyrrolidine | 80 g | C(CCCCCCCCCCC)N1CCCC1 | C16H33N
reactant | 1-bromo-3-chloropropane | 52.6 g | BrCCCCl | C3H6BrCl
solvent | methanol | 133 mL | CO | CH4O
product | (3-chloropropyl)dodecylpyrrolidinium bromide | 85 g | [Br-].ClCCC[N+]1(CCCC1)CCCCCCCCCCCC | InChI=1S/C19H39ClN.BrH/c1-2-3-4-5-6-7-8-9-10-11-16-21(19-14-15-20)17-12-13-18-21;/h2-19H2,1H3;1H/q+1;/p-1
